US04977189
N-Benzoylcarbamimidothioic acid, methyl ester monohydridodide
To an 18.0 g (0.1 mole) amount of N-(aminothioxomethyl)benzamide in 300 ml of acetone was added 15.0 ml of methyl iodide (34.2 g, 0.24 mole). The mixture was heated as reflux and after about 5 minutes a solid precipitate formed. Refluxing was continued for 2 hours, then the hot reaction mixture was filtered to collect the precipitate. The precipitate was washed with two 50 ml portions of acetone, then air dried to give 28.9 g of the product as a white solid, mp 189°-190° C. (dec.).

reactant | N-(aminothioxomethyl)benzamide | NC(NC(C1=CC=CC=C1)=O)=S | C8H8N2OS
reactant | methyl iodide | 0.24 mole, 15.0 ml, 34.2 g | CI | CH3I
solvent | acetone | 300 ml | CC(=O)C | C3H6O
product | N-Benzoylcarbamimidothioic acid, methyl ester | 28.9 g | C(C1=CC=CC=C1)(=O)NC(=N)SC | C9H10N2OS
